Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:13].[H:1][C:2]#[C:3][C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.42384921636
[H:1][O:2]/[C:3]([H:4])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.2121549323
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[H:8],5.0061354080900005
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.38892338379
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-3.44975809623
[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.16085019607
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.20360816585
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-5.500059190499999
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[O:11][H:12],1.2050500882600002
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.05901776964
[H:1][C:2](=[C:3]=[O:4])[O:9][C:8]=[C:5]([H:6])[H:7]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9]1,1.29362935515
[H:1][C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.116003531880001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]#[C:7][H:8],-0.8835848262999999
[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-1.4456954682700005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:10][H:11],4.21813429109
[H:1].[O:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.45629491263
[H:1][C:2]([H:3])=[C:4]1[C:5][O:6][C:7]1=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10],1.77471696224
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.28584268847
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4],4.76239817021
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]1([H:7])[H:8]>>[H:1][O:2][C:3][C:6]([C:4][H:5])([H:7])[H:8],4.36602674
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],-0.2910950323599999
[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.73140094616
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6],5.20911436703
[C:3]#[C:4][C:5][C:6]([H:7])[H:8].[H:1][O:2]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[H:8],-5.14460821894
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3][C:4]=[O:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.00350827075
[H:1][C:2]=[C:3]([H:4])[C:5]1=[C:6]([H:7])[O:8]1>>[H:1][C:2]=[C:3]([H:4])[C:5][O:8][C:6][H:7],2.46145623085
[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:10]([H:11])([H:12])[H:13],7.15717474768
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.35107588414
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-1.16228166175
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4],4.1634623666
